US05242908
Preparation of diisopropyl 2-methylbenzylphosphonate (L)
34.5 g (0.19 mol) of 2-methylbenzyl bromide and 39 g (0.19 mol) of triisopropyl phosphite were heated at 150° C. for 2 hours. During this procedure, i-propyl bromide distilled off. The product was distilled through a 30 cm Vigreux column.

reactant | 2-methylbenzyl bromide | 0.19 mol, 34.5 g | CC1=C(CBr)C=CC=C1 | C8H9Br
reactant | triisopropyl phosphite | 0.19 mol, 39 g | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
product | diisopropyl 2-methylbenzylphosphonate | CC1=C(CP(OC(C)C)(OC(C)C)=O)C=CC=C1 | C14H23O3P
